US03950380
By replacing in Example 2, step D, 3-benzyloxy-5-nitro-4-phenylbenzoic acid with 5-nitro-4-phenyl-3-propargyloxybenzoic acid, and following the procedure described, 5-amino-4-phenyl-3-propargyloxybenzoic acid is obtained with a melting point of 172°-173° C.

reactant | 3-benzyloxy-5-nitro-4-phenylbenzoic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1C1=CC=CC=C1)[N+](=O)[O-] | C20H15NO5
reactant | 5-nitro-4-phenyl-3-propargyloxybenzoic acid | [N+](=O)([O-])C=1C(=C(C=C(C(=O)O)C1)OCC#C)C1=CC=CC=C1 | C16H11NO5
product | 5-amino-4-phenyl-3-propargyloxybenzoic acid | NC=1C(=C(C=C(C(=O)O)C1)OCC#C)C1=CC=CC=C1 | C16H13NO3
